US06787544B2
In 2.1 mL of water is suspended 0.5 g of 2-aminomalonamide. Under ice-cooling, 0.43 g of ethyl glyoxalate is added to the suspension, which is then stirred for 40 minutes. Then, 0.85 mL of 5 mol/mL sodium hydroxide is added to the resulting suspension, which is then stirred at the same temperature as above for 40 minutes. The reaction mixture is adjusted to pH 12 by adding 1 mol/L sodium hydroxide, and once made into a solution. The solution is then adjusted to pH 2 by adding 6 mol/mL hydrochloric acid. The deposited crystals are collected by filtration and washed successively with water and 50% (w/w) ethanol to obtain 0.15 g of 3,5-dihydroxy-2-pyrazinecarboxamide.

reactant | 2-aminomalonamide | 0.5 g | NC(C(=O)N)C(=O)N | C3H7N3O2
reactant | ethyl glyoxalate | 0.43 g | C(C=O)(=O)OCC | C4H6O3
reactant | sodium hydroxide | 5 mol/mL, 0.85 mL | [OH-].[Na+]
reactant | sodium hydroxide | 1 mol/L | [OH-].[Na+]
reactant | hydrochloric acid | 6 mol/mL | Cl | ClH
solvent | water | 2.1 mL | O | H2O
product | 3,5-dihydroxy-2-pyrazinecarboxamide | 0.15 g | OC=1C(=NC=C(N1)O)C(=O)N | C5H5N3O3
